US08440689B2
tert-Butyl (1S,2R)-2-(7-(3-hydroxyprop-1-ynyl)-3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate
To an oven dried glass pressure vessel was added tert-butyl (1S,2R)-2-(7-iodo-3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate (25 mg, 0.043 mmol), copper(I) iodide (12.37 mg, 0.065 mmol), bis(triphenylphosphine) palladium(II) chloride (9.12 mg, 0.013 mmol), butylated hydroxytoluene (one granule), THF (866 μL), and Et3N (121 μL, 0.866 mmol). The mixture was degassed 3 min with nitrogen. Propargyl alcohol (31 μL, 0.520 mmol) was added and the vessel was capped and heated at 80° C. with stirring for 2 h and then at RT for 12 h. The reaction mixture was diluted with EtOAc (10 mL) and washed with water (5 mL) and brine (5 mL). The organic layer was collected, dried with Na2SO4, and concentrated to give the title compound as a brown residue, which was used without further purification (22 mg, 101%). [M+H] calc'd for C28H35N5O4, 506. found, 506.

reactant | tert-butyl (1S,2R)-2-(7-iodo-3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate | 0.043 mmol, 25 mg | IC=1C2=C(C(=NC1N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)NC=1C=C(C=CC1)C)C(NC2)=O | C25H32IN5O3
reactant | THF | 866 μL | C1CCOC1 | C4H8O
reactant | Et3N | 0.866 mmol, 121 μL | CCN(CC)CC | C6H15N
reactant | Propargyl alcohol | 0.520 mmol, 31 μL | C(C#C)O | C3H4O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | copper(I) iodide | 0.065 mmol, 12.37 mg | [Cu]I
catalyst | bis(triphenylphosphine) palladium(II) chloride | 0.013 mmol, 9.12 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | tert-Butyl (1S,2R)-2-(7-(3-hydroxyprop-1-ynyl)-3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate | OCC#CC=1C2=C(C(=NC1N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)NC=1C=C(C=CC1)C)C(NC2)=O | C28H35N5O4
